US07153855B2
To a solution of 4-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (500 mg, 1.24 mmol) in cyclopentylamine (50 mL) was added successively racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (308 mg, 0.49 mmol), cesium carbonate (0.81 g, 2.47 mmol) and palladium (II) acetate (70 mg, 0.31 mmol). The resultant mixture was heated to 95° C. for 18 hours at which time the reaction was judged complete by thin layer chromatography. The solution was cooled to room temperature and ether was added. The organic layer was washed with water and brine. The aqueous layer was extracted with ether and the combined organics dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (4:1 hexanes:ethyl acetate) provided N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-7-amine (360 mg, 64%) as a yellow foam. 1H NMR (CDCl3) δ 7.94 (d, 1H), 7.79 (d, 1H), 7.46 (s, 1H), 7.40 (d, 1H), 7.34–7.29 (m, 2H), 7.24 (d, 1H), 6.27 (d, 1H), 6.03 (m, 2H), 5.12 (broad s, 1H), 4.35 (m, 1H), 3.99 (m, 1H), 2.40 (s, 3H), 2.14–2.04 (m, 4H), 1.81–1.52 (m, 12H); MS m/z 453 (M+1).

reactant | 4-[7-chloro-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 1.24 mmol, 500 mg | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)C | C23H22ClN5
reactant | racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.49 mmol, 308 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 2.47 mmol, 0.81 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ether | CCOCC | C4H10O
reactant | cyclopentylamine | 50 mL | C1(CCCC1)N | C5H11N
catalyst | palladium (II) acetate | 0.31 mmol, 70 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(3-methylphenyl)pyrazolo[1,5-a]pyridin-7-amine | 360 mg, 64% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC(=CC=C2)C | C28H32N6
